US03975540
88 G. of dimethyl-2-methylterephthalate in 1000 ml. of carbon tetrachloride containing 89 g. (1 eq.) of N-bromosuccinimide is refluxed for 3 hours using a heat lamp. The solution is cooled, filtered and evaporated to dryness to give dimethyl-2-bromomethylterephthalate.

reactant | dimethyl-2-methylterephthalate | COC(C1=C(C=C(C(=O)OC)C=C1)C)=O | C11H12O4
reactant | N-bromosuccinimide | 1 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 89 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | dimethyl-2-bromomethylterephthalate | COC(C1=C(C=C(C(=O)OC)C=C1)CBr)=O | C11H11BrO4
